US08106090B2
[(1R,2S)-1-Benzyl-2-hydroxy-3-morpholin-4-yl-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.133 g, 0.50 mmol) and morpholine (0.220 mL, 2.50 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.50 mmol, 0.133 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | morpholine | 2.50 mmol, 0.220 mL | N1CCOCC1 | C4H9NO
product | [(1R,2S)-1-Benzyl-2-hydroxy-3-morpholin-4-yl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1CCOCC1)O)CC1=CC=CC=C1)=O | C19H30N2O4
